US05130241
A solution of ethyl 5-chloro-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate (3.45 g, 13.8 mmol) and sodium azide (1.10 g, 17 mmol) in dry dimethylsulphoxide (20 ml) was stirred between 55° and 65° C. for 5 hours. The reaction mixture was diluted with dichloromethane and the organic layer was washed three times with water before being dried (MgSO4) and evaporated. The residue was chromatographed on silica gel (Merck Art. 9385), eluting with ethyl acetate/hexane (2:1), to give ethyl 5-azido-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate as a pale yellow oil in 73% yield (2.59 g). Bulb to bulb distillation at 0.2 mmHg between 185°-195° C. further purified the product to a colourless oil. νmax (KBr) 3405, 2102 and 1733 cm-1 ; δH (CHCl3, 250 MHz) 1.31 (3H,t,J 7 Hz), 1.81 (1H,m), 1.87 (1H,m), 3.03 (2H,t,J 3 Hz), 3.40 (2H,m), 3.53 (2H,m), 4.00 (1H,d,J 3.5 Hz), 4.25 (3H,m) and 4.53 (1H,d,J 4.5 Hz, exchangeable). (Found: C, 46.93; H, 6.46; N, 21.83%. C10H16N3O4 requires C,46.87; H, 6.29; N, 21.86%).

reactant | ethyl 5-chloro-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate | 13.8 mmol, 3.45 g | ClCCC(C(C(=O)OCC)N1C(CC1)=O)O | C10H16ClNO4
reactant | sodium azide | 17 mmol, 1.10 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 5-azido-3-hydroxy-2-(2-oxoazetidin-1-yl)valerate | 73% yield | N(=[N+]=[N-])CCC(C(C(=O)OCC)N1C(CC1)=O)O | C10H16N4O4
